US09315520B2
Step 1. Synthesis of methyl 2-(dichloromethyl)-4,5-dihydro-1,3-oxazole-4-carboxylate (C13)
A solution of dichloroacetonitrile (215 g, 1.96 mol) in methanol (200 mL) was added drop-wise to a −5° C. solution of sodium methoxide (15.4 g, 0.285 mol) in methanol (500 mL). A solution of ethyl serinate, hydrochloride salt (382 g, 2.45 mol) in methanol (300 mL) was then added to the −5° C. reaction mixture, which was subsequently allowed to stir at room temperature for 16 hours. Dichloromethane (1 L) and water (800 mL) were added, and the aqueous layer was extracted with dichloromethane (1 L); the combined organic layers were concentrated in vacuo to provide the product as a yellow oil, which was used in the next step without additional purification. Yield: 300 g, 1.4 mol, 71%. 1H NMR (400 MHz, CDCl3) δ 6.29 (s, 1H), 4.90 (dd, J=10.8, 8.3 Hz, 1H), 4.74 (dd, J=8.8, 8.3 Hz, 1H), 4.66 (dd, J=10.8, 8.9 Hz, 1H), 3.82 (s, 3H).

reactant | dichloroacetonitrile | 1.96 mol, 215 g | ClC(C#N)Cl | C2HCl2N
reactant | sodium methoxide | 0.285 mol, 15.4 g | C[O-].[Na+]
reactant | ethyl serinate, hydrochloride salt | 2.45 mol, 382 g | Cl.N[C@@H](CO)C(=O)OCC
reactant | Dichloromethane | 1 L | ClCCl | CH2Cl2
solvent | methanol | 200 mL | CO | CH4O
solvent | methanol | 500 mL | CO | CH4O
solvent | methanol | 300 mL | CO | CH4O
solvent | water | 800 mL | O | H2O
product | methyl 2-(dichloromethyl)-4,5-dihydro-1,3-oxazole-4-carboxylate | ClC(C=1OCC(N1)C(=O)OC)Cl | C6H7Cl2NO3
